US07943774B2
tert-Butyl 4-{4-[(trimethylsilyl)ethynyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (XI-1)
Under argon, tert-butyl 4-(4-ethynyl-1,3-thiazol-2-yl)piperidine-1-carboxylate (X-1, 940 mg) is dissolved in tetrahydrofuran at −78° C., and lithiumhexamethyldisilazane (1M in hexane, 4.82 ml) is added dropwise. After 30 min, trimethylsilyl chloride (699 mg) is added dropwise, and cooling is removed. The mixture is stirred overnight, saturated ammonium chloride solution is then added and the mixture is extracted with ethyl acetate. The organic extracts are dried over sodium sulphate and concentrated under reduced pressure. The residue is purified chromatographically. This gives tert-butyl 4-{4-[(trimethylsilyl)ethynyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (1.28 g).

reactant | tert-butyl 4-(4-ethynyl-1,3-thiazol-2-yl)piperidine-1-carboxylate | 940 mg | C(#C)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C15H20N2O2S
reactant | lithiumhexamethyldisilazane | 1M, 4.82 ml | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | trimethylsilyl chloride | 699 mg | C[Si](C)(C)Cl | C3H9ClSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-Butyl 4-{4-[(trimethylsilyl)ethynyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | C[Si](C)(C)C#CC=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H28N2O2SSi
